US04931455
Synthesis of dl-5-chloro-6-ethyl-4-(1-ethyl-7-chloroheptyl)aminopyrimidine (Compound No. 40)
To a mixture of 0.9 g of dl-5-chloro-6-ethyl-4-(1-ethyl-7-hydroxyheptyl)aminopyrimidine and 0.28 g of pyridine was gradually added dropwise 0.42 g of thionyl chloride under cooling to -10° to -5° C. After dropwise addition, the mixture was heated at 60° to 70° C. for one hour and allowed to stand for cooling. The reaction mixture was neutralized with an aqueous sodium carbonate solution and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting oily product was isolated through a column chromatography (Wako gel C-200, trade name, eluent; toluene:ethyl acetate=10:1) to give 0.55 g of the title compound as pale yellow oily liquid. nD22.8 1.5246.

reactant | dl-5 chloro-6-ethyl-4-(1-ethyl-7-hydroxyheptyl)aminopyrimidine | 0.9 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCO)CC)CC
reactant | thionyl chloride | 0.42 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | pyridine | 0.28 g | N1=CC=CC=C1 | C5H5N
product | dl-5 chloro-6-ethyl-4-(1-ethyl-7-chloroheptyl)aminopyrimidine | 0.55 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCCl)CC)CC | InChI=1S/C18H34N4O2.C15H25Cl2N3/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-3-12(9-7-5-6-8-10-16)18-14-11-13(4-2)19-15(17)20-14/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;11-12H,3-10H2,1-2H3,(H,18,19,20)
